US04262013
3-Hydroxy-3-methyl-4-bromo-7-(p-[p-fluorobenzyloxy)phenyl]-5-heptanolide
The carboxylic acid (900 mg) prepared by hydrolyzing 1.03 g of ethyl 3-hydroxy-3-methyl-7-[p-(p-fluorobenzyloxy)phenyl]-4-heptenoate with 4 N sodium hydroxide solution in methanol, was treated with 0.2 ml of bromine in an aqueous sodium hydrogen carbonate solution and the reaction mixture was worked up according to the method described in Example 1 (b). The product was recrystallized from a mixture of acetone and ethyl ether (1:10) to yield 1.2 g of the desired compound melting at 160°-163° C.

reactant | ethyl 3-hydroxy-3-methyl-7-[p-(p-fluorobenzyloxy)phenyl]-4-heptenoate | 1.03 g | OC(CC(=O)OCC)(C=CCCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C | C23H27FO4
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | bromine | 0.2 ml | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | 3-Hydroxy-3-methyl-4-bromo-7-(p-[p-fluorobenzyloxy)phenyl]-5-heptanolide | 1.2 g | OC1(CC(=O)OC(C1Br)CCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C | C21H22BrFO4
